US04196208
Preparation of 4-(N-t-butyloxycarbonyl-N-hexadecylamino)-benzoyl imidazole
To a solution of 10 g. (27.7 m moles) 4(hexadecylamino)benzoic acid in 100 ml. dioxane is treated with 4.0 g. (27.8 m moles) t-butylazidoformate and 10 ml pyridine. After sitrring at room temperature for 18 hours, the protected amidoacid is precipitated from solution by addition of 150 ml. water. The product was collected and thoroughly dried. The crude product is dissolved in 200 ml. of a mixture consisting of methylene chloride/dimethoxyethane/pyridine (1:4:1), and to this is added 5.4 g. (1.2 eq) 1,1'-carbonyldiimidazole. The solution is stirred overnight at room temperature and the solvents are evaporated to yield the title compound as a Thick, orange oil.

reactant | 4(hexadecylamino)benzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | t-butylazidoformate | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
reactant | 1,1'-carbonyldiimidazole | 1.2 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(N-t-butyloxycarbonyl-N-hexadecylamino)-benzoyl imidazole | C(C)(C)(C)OC(=O)N(CCCCCCCCCCCCCCCC)C1=CC=C(C(=O)C=2NC=CN2)C=C1 | C31H49N3O3
